US07101898B2
A mixture of (4-bromophenyl)-(cyclopropyl)methanone (0.450 g, 2.00 mmol), palladium acetate 49 mg, 0.220 mmol), triphenylphosphine (55 mg, 0.21 mmol), methyl acrylate (0.43 g, 2.50 mmol) and triethylamine (10 ml, 72 mmol) was heated to 100° C. for 48 in a closed reaction vial. The reaction mixture was cooled to room temperature. The solid was removed by filtration. A mixture of ice and 1 N hydrochloric acid was added to the liquid. The mixture was stirred for 1 h at room temperature. It was extracted with ethyl acetate (2×150 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (100 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g) using a mixture of dichloromethane/ethyl acetate/heptane (1:1:1) as eluent, to give 217 mg of (E)-3-(4-(cyclopropanecarbonyl)phenyl)acrylic acid methyl ester.

reactant | (4-bromophenyl)-(cyclopropyl)methanone | 2.00 mmol, 0.450 g | BrC1=CC=C(C=C1)C(=O)C1CC1 | C10H9BrO
reactant | triphenylphosphine | 0.21 mmol, 55 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl acrylate | 2.50 mmol, 0.43 g | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 72 mmol, 10 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.220 mmol, 49 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-3-(4-(cyclopropanecarbonyl)phenyl)acrylic acid methyl ester | 217 mg | COC(\C=C\C1=CC=C(C=C1)C(=O)C1CC1)=O | C14H14O3
